US04246181
0.02 mole (2.46 g) 5-amino-2-methyl phenol and 0.02 mole (2.85 g) chloroparaphenylene diamine are dissolved in 200 cc water to which have been added 50 cc ammonia 22° Be'. To this mixture there is added, little by little with agitation, 0.04 mole (13.16 g) potassium ferricyanide. The reaction mass is then filtered on a suction filter and a yield of 5 g of said indoaniline is obtained. After recrystallization in a pyridine and water mixture, the said indoaniline recovered melts at 120°.

reactant | 5-amino-2-methyl phenol | 0.02 mole, 2.46 g | NC=1C=CC(=C(C1)O)C | C7H9NO
reactant | ammonia | 50 cc | N | H3N
reactant | water | 200 cc | O | H2O
catalyst | potassium ferricyanide | 0.04 mole, 13.16 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
product | indoaniline | yield of 5 g | C1=CC(=O)C=CC1=NC2=CC=C(C=C2)N | C12H10N2O
